US06107488
4-(4,4-dimethyl 2,5-dioxo 1-imidazolidinyl) 2-(trifluoromethyl) benzonitrile
100 g of ortho trifluoromethylaniline and 200 ml of dimethylacetamide are introduced and the reaction medium is cooled down to 0°±2° C. 88.8 g of dibromo-dimethyl hydantoin is added over 30 minutes at 0°±2° C., the temperature is maintained at 0°±2° C. and agitation is carried out at 0°±2° C . for 15 minutes. Then the temperature is allowed to rise to 20° C. and the whole is poured into 200 ml of demineralized water at 20°±2° C. Agitation is carried out for 15 minutes, 400 ml of isopropyl ether is added, the aqueous phase is decanted and the organic phase is washed with 2×100 ml of demineralized water, the aqueous phases are reextracted with 100 ml of isopropyl ether and the combined organic phases are dried, filtered and washed with 2×20 ml of isopropyl ether. Concentration is carried out a temperature of 30-40° C. and in this way 149 g of expected product (orangy-brown oil) is obtained.

reactant | ortho trifluoromethylaniline | 100 g | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
reactant | dimethylacetamide | 200 ml | CC(=O)N(C)C | C4H9NO
reactant | dibromo-dimethyl hydantoin | 88.8 g | BrN1C(N(C(C1=O)(C)C)Br)=O | C5H6Br2N2O2
reactant | isopropyl ether | 400 ml | C(C)(C)OC(C)C | C6H14O
solvent | water | 200 ml | O | H2O
product | 4-(4,4-dimethyl 2,5-dioxo 1-imidazolidinyl) 2-(trifluoromethyl) benzonitrile | 149 g | CC1(NC(N(C1=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O)C | C13H10F3N3O2
